US09055743B2
2.80 g (12.2 mmol) of N-(3-ethoxycyclohex-2-en-1-ylidene)-4-methylaniline (prepared from 3-[(4-methylphenyl)amino]cyclohex-2-en-1-one and ethyl iodide analogously to J. Org. Chem. 1984, 49, 3314) are dissolved in 40 ml of anhydrous tetrahydrofuran and, at −78° C., 7.94 ml of lithium diisopropylamide solution (2 M in tetrahydrofuran, heptane, ethylbenzene, 15.9 mmol) are added and the mixture is stirred for 30 min. At −78° C., 932 mg (12.2 mmol) of ethyl formate, dissolved in 10 ml of tetrahydrofuran, are added. After 1 h of stirring at −78° C., saturated aqueous ammonium chloride solution is added, the mixture is extracted with ethyl acetate and the organic phase is washed with saturated aqueous sodium chloride solution and dried over sodium sulphate. Purification of the residue by recrystallization (cyclohexane/ethyl acetate) gives 455 mg of (Z)-{4-ethoxy-2-[(4-methylphenyl)imino]cyclohex-3-en-1-ylidene}methanol.

reactant | N-(3-ethoxycyclohex-2-en-1-ylidene)-4-methylaniline | 12.2 mmol, 2.80 g | C(C)OC1=CC(CCC1)=NC1=CC=C(C=C1)C | C15H19NO
reactant | 3-[(4-methylphenyl)amino]cyclohex-2-en-1-one | CC1=CC=C(C=C1)NC1=CC(CCC1)=O | C13H15NO
reactant | ethyl iodide | C(C)I | C2H5I
reactant | lithium diisopropylamide | 15.9 mmol, 2 M, 7.94 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl formate | 12.2 mmol, 932 mg | C(=O)OCC | C3H6O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (Z)-{4-ethoxy-2-[(4-methylphenyl)imino]cyclohex-3-en-1-ylidene}methanol | 455 mg | C(C)OC1=CC(\C(\CC1)=C/O)=NC1=CC=C(C=C1)C | C16H19NO2
